US03933906
The starting material is prepared as follows: To the stirred mixture of 5.5 g of 4-(4-acetamidophenylamino)-3-amino-5-sulfamoylbenzoic acid, 2.0 g of 1-bromo-2-butene, 30 ml of water and 10 ml of N aqueous sodium hydroxide, 4N aqueous sodium hydroxide is added dropwise in order to keep the pH of the mixture at 7.4 for 17 hours. It is filtered, the filtrate acidified with glacial acetic acid to pH = 4 and the precipitate formed filtered off. It is recrystallized from aqueous ethanol, to yield the 4-(4-acetamidophenylamino)-3-but-2-enylamino-5-sulfamoylbenzoic acid melting at about 230° with decomposition.

reactant | 4-(4-acetamidophenylamino)-3-amino-5-sulfamoylbenzoic acid | 5.5 g | C(C)(=O)NC1=CC=C(C=C1)NC1=C(C=C(C(=O)O)C=C1S(N)(=O)=O)N | C15H16N4O5S
reactant | 1-bromo-2-butene | 2.0 g | BrCC=CC | C4H7Br
reactant | sodium hydroxide | [OH-].[Na+]
reactant | sodium hydroxide | 4N | [OH-].[Na+]
solvent | water | 30 ml | O | H2O
product | 4-(4-acetamidophenylamino)-3-but-2-enylamino-5-sulfamoylbenzoic acid | C(C)(=O)NC1=CC=C(C=C1)NC1=C(C=C(C(=O)O)C=C1S(N)(=O)=O)NCC=CC | C19H22N4O5S
